US07425568B2
2-(4-Fluorophenyl)chroman-4,6-diol was prepared as described for 2-phenylchroman-4,6-diol in Example 8(a) starting from 1,5 g of 2-(4-fluorophenyl)-6-hydroxychroman-4-one. 1H NMR (400 MHz, d6-DMSO) δ: 8.84 (s, 1H), 7.48 (m, 2H), 7.21 (m, 2H), 6.89 (d, 1H, J 2.7 Hz), 6.59 (d, 1H, J 8.7 Hz), 6.54 (dd, 1H, J 8.7, 2.7 Hz), 5.42 (bs, 1H), 5.12 (d, 1H, J 10.7 Hz), 4.87 (m, 1H), 2.25 (m, 1H), 1.89 (m, 1H).

reactant | 2-phenylchroman-4,6-diol | C1(=CC=CC=C1)C1OC2=CC=C(C=C2C(C1)O)O | C15H14O3
reactant | 2-(4-fluorophenyl)-6-hydroxychroman-4-one | 1,5 g | FC1=CC=C(C=C1)C1OC2=CC=C(C=C2C(C1)=O)O | C15H11FO3
product | 2-(4-Fluorophenyl)chroman-4,6-diol | FC1=CC=C(C=C1)C1OC2=CC=C(C=C2C(C1)O)O | C15H13FO3
